US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2-fluoromethyl-pyridin-4-yl)-phenyl]-propionic acid
The title compound was prepared from (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid and (S)-2-amino-3-[4-(2-fluoromethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride according to General Procedures L and B. LCMS (m/z): 861.

reactant | (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | (S)-2-amino-3-[4-(2-fluoromethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC(=NC=C1)CF)N)=O
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2-fluoromethyl-pyridin-4-yl)-phenyl]-propionic acid | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=CC(=NC=C3)CF)OC2)C=CC1Cl | C49H44Cl2FN3O6
